### PR TITLE
[Merged by Bors] - chore: Deprecate pow monotonicity lemmas

### PR DESCRIPTION
**Pull request by YaelDillies**
Add deprecated aliases for all the lemmas removed in #9095 and fix a few renames that were botched.

---

See https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/Renaming.20monotonicity.20of.20powers.20lemmas

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/GroupPower/CovariantClass.lean [hunk 1]
```diff
@@ -175,19 +175,18 @@ variable [Preorder β] [CovariantClass M M (· * ·) (· ≤ ·)]
...
 @[to_additive Monotone.const_nsmul]
-theorem Monotone.pow_right {f : β → M} (hf : Monotone f) : ∀ n : ℕ, Monotone fun a => f a ^ n
+theorem Monotone.pow_const {f : β → M} (hf : Monotone f) : ∀ n : ℕ, Monotone fun a => f a ^ n
   | 0 => by simpa using monotone_const
   | n + 1 => by
     simp_rw [pow_succ]
-    exact hf.mul' (Monotone.pow_right hf _)
-#align monotone.pow_right Monotone.pow_right
+    exact hf.mul' (Monotone.pow_const hf _)
+#align monotone.pow_right Monotone.pow_const
```
Comment (eric-wieser) [inline Mathlib/Algebra/GroupPower/CovariantClass.lean:183]: These don't look like deprecations to me; can you split them to their own PR?

File: Mathlib/Algebra/GroupPower/CovariantClass.lean [hunk 2]
```diff
@@ -357,3 +356,36 @@ theorem one_le_zpow {x : G} (H : 1 ≤ x) {n : ℤ} (hn : 0 ≤ n) : 1 ≤ x ^ n
 #align zsmul_nonneg zsmul_nonneg
 
 end DivInvMonoid
+
+/-!
+### Deprecated lemmas
+
+Those lemmas have been deprecated on the 2023/12/23.
```
Comment (eric-wieser) [inline Mathlib/Algebra/GroupPower/CovariantClass.lean:363]:
```suggestion
Those lemmas have been deprecated on the 2023-12-23.
```

File: Mathlib/Algebra/GroupPower/CovariantClass.lean [hunk 3]
```diff
@@ -357,3 +356,36 @@ theorem one_le_zpow {x : G} (H : 1 ≤ x) {n : ℤ} (hn : 0 ≤ n) : 1 ≤ x ^ n
...
+-/
+
+@[deprecated] alias pow_le_pow_of_le_left' := pow_le_pow_left'
```
Comment (eric-wieser) [inline Mathlib/Algebra/GroupPower/CovariantClass.lean:366]: I think you might actually need
```suggestion
@[deprecated pow_le_pow_left'] alias pow_le_pow_of_le_left' := pow_le_pow_left'
```

File: Mathlib/Algebra/GroupPower/CovariantClass.lean (hunk 1 above)
Comment (YaelDillies) [reply Mathlib/Algebra/GroupPower/CovariantClass.lean:183]: Those lemma renames were announced in #9095. I just messed up when doing so.

File: Mathlib/Algebra/GroupPower/CovariantClass.lean (hunk 3 above)
Comment (YaelDillies) [reply Mathlib/Algebra/GroupPower/CovariantClass.lean:366]: Gladly not:
* https://github.com/leanprover-community/mathlib4/actions/runs/7307366536/job/19913007492
* https://github.com/leanprover-community/mathlib4/pull/9179/files#diff-f0fe1b51418558c50bf0a4987ea95933f803b45120d299f6566377f3b78baf6cR982

**Comment by urkud** [comment]
LGTM but I don't know how to verify that all aliases are there.

**Comment by YaelDillies** [comment]
You could check the list from the description of #9095 one by one. I copy-pasted it to get the aliases.

**Comment by urkud** [comment]
Let's get it merged
bors merge
